US08975254B2
(S)-3-acetyl-N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (380 mg, 1.45 mmol) and 3-acetyl-1H-pyrazole-5-carboxylic acid (229 mg, 1.48 mmol) using the method of Example 34(d). Yield 249 mg. 1H NMR (400 MHz; d6-DMSO): δ 1.49 (d, 3H), 2.48 (s, 3H), 3.62 (m, 2H), 4.67 (m, 1H), 6.98 (d, 1H), 7.25 (bs, 1H), 7.76 (m, 2H), 7.89 (d, 1H), 8.52 (bs, 1H), 14.18 (bs, 1H).

reactant | (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 1.45 mmol, 380 mg | NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F | C13H12F2N4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.48 mmol, 229 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
product | (S)-3-acetyl-N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F | C19H16F2N6O2
